US05886014
N-t-Butoxycarbonyl-4-methoxy-2-nitroaniline
A solution of 2.5 g of 4-methoxy-2-nitroaniline in 30 ml of dehydrated dimethylformamide was added at room temperature to a suspension of 0.72 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 30 ml of dehydrated dimethylformamide, and the resulting mixture was stirred at room temperature for 10 minutes, after which a solution of 3.57 g of di-t-butyl dicarbonate in 20 ml of dehydrated dimethylformamide was added at room temperature and then the mixture was stirred for 1 hour. At the end of this time, the reaction mixture was poured into ice-water and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and then with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The extract was freed from the solvent by distillation under reduced pressure, after which the resulting residue was purified by column chromatography through silica gel, using a 1:20 by volume mixture of ethyl acetate and hexane as the eluent, to give 1.94 g of the title compound having an Rf value=0.39 (on thin layer chromatography on silica gel; developing solvent: a 1:20 by volume mixture of ethyl acetate and hexane).

reactant | 4-methoxy-2-nitroaniline | 2.5 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | di-t-butyl dicarbonate | 3.57 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-t-Butoxycarbonyl-4-methoxy-2-nitroaniline | 1.94 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C12H16N2O5
